US06878831B2
Preparation of 2-methyl-3-(4-methylphenyl)-2-propen-1-ol
To a solution of ethyl 2-methyl-3-(4-methylphenyl)-2-propenoate (1002 g) in toluene (5371 ml) was added dropwise a 70% solution of dihydrobis(2-methoxyethoxy) sodium aluminate in toluene (2152 g) at 10° C. or below. The solution was stirred at 2 to 5° C. for 1 hr, a 10% solution of Rochel's salt (5968 ml) was added dropwise thereto at 20° C. or below and the solution was stirred at room temperature for 30 min. The toluene layer was fractionated, and washed with a 10% solution of Rochel's salt (2984 ml) and then washed with water. The solvent was distilled off to give the title compound as an oil (756 g, yield 93.9%).

reactant | ethyl 2-methyl-3-(4-methylphenyl)-2-propenoate | 1002 g | CC(C(=O)OCC)=CC1=CC=C(C=C1)C | C13H16O2
solvent | toluene | 5371 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2152 g | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-3-(4-methylphenyl)-2-propen-1-ol | 756 g, yield 93.9% | CC(CO)=CC1=CC=C(C=C1)C | C11H14O
